US08232289B2
2. [4-[(2-Chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-1-(3-chloro-2-pyridyl)pyrazol-3-yl]methanol
To a solution of ethyl 4-((2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-yl)methyl)-1-(3-chloro-2-pyridyl)-1H-pyrazole-3-carboxylate (0.4 g, 0.73 mmol) in tetrahydrofuran (5 mL) and ethanol (5 mL) is added lithium borohydride (1.80 mL, 2.0 M solution in tetrahydrofuran, 3.68 mmol) at 0° C. and stirred at room temperature for 16 h. After completion, the reaction mixture was quenched with water (10 mL) and extracted with ethyl acetate (2×25 mL). The combined organic extracts are dried over sodium sulfate and concentrated in vacuo. The crude mixture is purified by column chromatography over silica gel eluting with dichloromethane/methanol (97:3) to yield 0.14 g (39%) of the title compound. MS (m/z): 500 (M+1).

reactant | ethyl 4-((2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-yl)methyl)-1-(3-chloro-2-pyridyl)-1H-pyrazole-3-carboxylate | 0.73 mmol, 0.4 g | ClC1=CC2=C(C3(OCC2(F)F)CCN(CC3)CC=3C(=NN(C3)C3=NC=CC=C3Cl)C(=O)OCC)S1 | C23H22Cl2F2N4O3S
reactant | lithium borohydride | 3.68 mmol, 2.0 M, 1.80 mL | [BH4-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | [4-[(2-Chloro-4,4-difluoro-spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]-1′-yl)methyl]-1-(3-chloro-2-pyridyl)pyrazol-3-yl]methanol | 0.14 g, 39% | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NN(C1)C1=NC=CC=C1Cl)CO)OCC2(F)F | C21H20Cl2F2N4O2S
